US07285563B2
2-Fluoro-6-prop-1-ynylbenzaldehyde
A mixture of 2-bromo-6-fluorobenzaldehyde [see Tetrahedron Letters (1992), 33(49), 7499-7502] (4.0 g; 19.7 mmol) and triethylamine (4.12 ml; 29.5 mmol) in anhydrous N,N-dimethylformamide (75 ml) contained within a large (200 ml capacity) sealed tube was cooled to −78° C. and propyne gas bubbled through until the volume had increased by approx 10 ml. To this mixture was added Pd(PPh3)2Cl2 (0.69 g; 0.99 mmol) and CuI (180 mg; 1.97 mmol), the lid was put in place and the tube allowed to reach room temperature and stir for 4 hours after which TLC showed the reaction was complete. The mixture was poured onto water (500 ml) and extracted with EtOAc (3×150 ml). The combined EtOAc layers were washed with water (3×400 ml), saturated NaCl (150 ml), dried over Na2SO4, filtered through a 1 inch plug of silica and evaporated to give the title compound (3.2 g, 100%).

reactant | 2-bromo-6-fluorobenzaldehyde | 19.7 mmol, 4.0 g | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
reactant | triethylamine | 29.5 mmol, 4.12 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.99 mmol, 0.69 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.97 mmol, 180 mg | [Cu]I
product | 2-Fluoro-6-prop-1-ynylbenzaldehyde | 3.2 g, 100% | FC1=C(C=O)C(=CC=C1)C#CC | C10H7FO
